US04868340
9.3 Ml of a 1.42N slution of butyl-lithium in hexane (0.0132M) were added dropwise at -78° to a solution of 2.0 g (0.011M) of methyl alpha-cyclogeranate in 40 ml of anhydrous tetrahydrofuran (THF). Once the addition was over, the temperature of the mixture was increased to +15° and, at this temperature, 3.17 ml (0.011M) of a 70% solution of VITRIDE [sodium bis(2-methoxyethoxy)aluminum hydride] in toluene were added thereto. The reaction mixture was heated to 40° for 45 mn, then hydrolyzed by pouring it onto an icy saturated aqueous solution of ammonium chloride. The mixture was extracted with ether, the organic phase was separated and then subjected to the usual treatments of neutralization and washing to give a residue which, upon distillation, gave 1.27 g of alpha-cyclocitral having b.p. 60°-65°/66 Pa (purity: 80%; yield: 65%).

reactant | butyl-lithium | C(CCC)[Li]
reactant | VITRIDE | COCCO[AlH2-]OCCOC.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 0.0132M | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | alpha-cyclocitral | 1.27 g, yield: 65% | CC1=CCCC(C1C=O)(C)C | C10H16O
